US07592456B2
2-{[6-(4-Fluorophenyl)-2-naphthyl]sulfonyl}pyridine
The title compound was prepared from sodium 6-(4-fluorophenyl)naphthalene-2-sulfinate (250 mg, 0.81 mmol) and 2-bromopyridine (76 μL, 0.79 mmol) according to the method of Example 6 Step 4. Purification by flash column chromatography eluting with a 20-40% ethyl acetate/isohexane gradient gave 2-{[6-(4-fluorophenyl)-2-naphthyl]sulfonyl}pyridine (0.10 g, 34%). 1H NMR (400 MHz, CDCl3) δ 8.70 (1H, s), 8.68-8.65 (1H, m), 8.33-8.22 (1H, m), 8.07 (1H, d, J=8.6 Hz), 8.04-7.92 (4H, m), 7.82 (1H, dd, J=1.8, 8.6 Hz), 7.69-7.65 (2H, m), 7.46-7.44 (1H, m), 7.22-7.16 (2H, m); m/z (ES+) 364 [MH+].

reactant | sodium 6-(4-fluorophenyl)naphthalene-2-sulfinate | 0.81 mmol, 250 mg | FC1=CC=C(C=C1)C=1C=C2C=CC(=CC2=CC1)S(=O)[O-].[Na+]
reactant | 2-bromopyridine | 0.79 mmol, 76 μL | BrC1=NC=CC=C1 | C5H4BrN
product | 2-{[6-(4-fluorophenyl)-2-naphthyl]sulfonyl}pyridine | 0.10 g, 34% | FC1=CC=C(C=C1)C=1C=C2C=CC(=CC2=CC1)S(=O)(=O)C1=NC=CC=C1 | C21H14FNO2S
